US05990116
b) 6-[2-(2,5-Dimethoxyphenyl)ethynyl]-4-ethyl-quinazoline
Argon is passed through a solution of 200 mg of 6-iodo-4-methoxy-quinazoline in 12 ml of dry dimethylformamide for 15 minutes. Then 40 mg of tetrakis(triphenylphosphine)-palladium, 113 mg of (2,5-dimethoxyphenyl)acetylene, 11 mg of copper(I)iodide and 220 mg of triethylamine are added, and the mixture is heated to 60° for 2 hours. The solvent is distilled off in vacuo and the residue partitioned between water and ethyl acetate. The organic layer is separated, dried and concentrated in vacuo. The pure title compound is obtained after chromatography (silica gel, cyclohexane/ethyl acetate=2/1) as colourless crystals. mp: 103-105°.

reactant | 6-iodo-4-methoxy-quinazoline | 200 mg | IC=1C=C2C(=NC=NC2=CC1)OC | C9H7IN2O
reactant | (2,5-dimethoxyphenyl)acetylene | 113 mg | COC1=C(C=C(C=C1)OC)C#C | C10H10O2
reactant | triethylamine | 220 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium | 40 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I)iodide | 11 mg | [Cu]I
product | 6-[2-(2,5-Dimethoxyphenyl)ethynyl]-4-ethyl-quinazoline | COC1=C(C=C(C=C1)OC)C#CC=1C=C2C(=NC=NC2=CC1)CC | C20H18N2O2
